US05801263
4-Diphenylphosphinophenylphosphonic Acid
0.40 g (10.0 mmol) of NaOH in 7 ml of water are added dropwise at 23° C. to a solution of 2.00 g (5.0 mmol) of diethyl 4-diphenylphosphinophenylphosphonate in 7 ml of THF. After refluxing for 6 hours, the mixture is diluted with a further 7 ml of THF, 4.0 ml of 2N hydrochloric acid are added dropwise at 23° C. and the mixture is stirred for 20 min at 23° C. After phase separation, the aqueous phase is extracted twice, each time with 25 ml of dichloromethane, and the combined organic phases are washed with 25 ml of water. After drying over Na2SO4, complete evaporation on a rotary evaporator and drying under reduced pressure, 1.54 g of 4-diphenylphosphinophenylphosphonic acid (90% of theory) are obtained in the form of a pale yellow solid having an m.p. of 87° C.

reactant | NaOH | 10.0 mmol, 0.40 g | [OH-].[Na+]
reactant | diethyl 4-diphenylphosphinophenylphosphonate | 5.0 mmol, 2.00 g | C1(=CC=CC=C1)P(C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=CC=CC=C1 | C22H24O3P2
solvent | water | 7 ml | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 2N, 4.0 ml | Cl | ClH
product | 4-Diphenylphosphinophenylphosphonic Acid | C1(=CC=CC=C1)P(C1=CC=C(C=C1)P(O)(O)=O)C1=CC=CC=C1 | C18H16O3P2
